US07745414B2
(1) 4-Difluoromethoxy-phenylboronic acid
In a departure from the procedure described above the compound is prepared from 4-difluoromethoxy-1-iodo-benzene using iPrMgCl to generate the arylmetal compound and trapping this intermediate with trimethyl borate.

reactant | 4-difluoromethoxy-1-iodo-benzene | FC(OC1=CC=C(C=C1)I)F | C7H5F2IO
reactant | iPrMgCl | C(C)(C)[Mg]Cl
reactant | trimethyl borate | B(OC)(OC)OC | C3H9BO3
product | 4-Difluoromethoxy-phenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)F | C7H7BF2O3
